datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][O:24][O:25],199.11656
[C:0](=[C:1][C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])[H:9])[H:10])([H:6])[H:7],132.633
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])[H:12])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[O:4]1)([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10].[O:5][H:15],45.6056
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4](=[O:5])[H:16])([H:14])[H:15])[O:6][O:7])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]=[O:5])([H:14])[H:15])[O:6][O:7][H:16])([H:8])([H:9])[H:10],64.26624
[C:0]([C:1]([O:2][O:3][H:13])([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([H:17])([H:18])[H:19])[O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][O:3][H:13])([C:4](=[C:5]([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[O:7][O:8][H:14],123.428
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[H:10])[C:4](=[C:5]([H:14])[H:15])[O:6][O:7][H:16])([H:8])[H:9]>>[C:0](=[C:1]1[C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[O:6][C:4]1=[C:5]([H:14])[H:15])([H:8])[H:9].[O:7][H:16],75.8559
[O:0]=[C:1]1[C:2]([H:6])=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:9].[O:10][H:11]>>[H:6][O:10][H:11].[O:0]=[C:1]1[C:2]=[C:3]([H:7])[C:4]([H:8])=[C:5]1[H:9],6.0668
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([C:5](=[C:6]([H:18])[H:19])[H:16])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11].[O:7][O:8][H:17],125.9384
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23],60.919
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:5],74.0986
[C:0]([C:1](=[O:2])[H:5])([H:3])[H:4].[O:6][N:7]=[O:8]>>[C:0](=[C:1]=[O:2])([H:3])[H:4].[H:5][O:6][N:7]=[O:8],5.98312
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([C:6]([H:14])[H:15])([H:12])[H:13])[H:11])[H:7]>>[C:0](#[C:1][C:2]1([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:7],147.193
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:10],60.2496
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:10]([C:9](=[C:8]([H:14])[H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:6],65.2704
[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])[c:6]2[c:7]([H:23])[c:8]([H:24])[c:9]([H:25])[c:10]([H:26])[c:11]21)([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:21])=[C:5]([H:22])[c:6]2[c:7]([H:23])[c:8]([H:24])[c:9]([H:25])[c:10]([H:26])[c:11]21)([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:20],174.095
[N:0]#[C:1][O:2][H:3].[O:4]>>[H:3][O:4].[N:0]#[C:1][O:2],17.284104
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12],67.3624
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[H:10]>>[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[H:3][H:10],34.200016
[C:0]([C:1]([C:2]([C:3]1[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]1([H:11])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10],163.594
